US09290511B2
i) Methyl 5-phenyl-4-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidine-6-carboxylate
To a stirred solution of methyl 4-chloro-5-phenyl-thieno[2,3-d]pyrimidine-6-carboxylate (0.850 g, 2.80 mmol) in THF (50 mL), was added diisopropylethylamine (0.73 mL, 4.20 mmol) and 4-(2-pyrrolidin-1-ylethoxymethyl)piperidine (0.890 g, 4.20 mmol) in one portion, and the reaction left to stir at room temperature for 2 hours. The reaction was diluted with water (50 mL) and extracted with ethyl acetate (3×50 mL). The reaction was dried over sodium sulphate, filtered and concentrated under reduced pressure. The crude material was purified by column chromatography using DCM: MeOH (0-25%) as eluent to afford the named product (1.012 g, 75%). m/z [M+H]+481; RT=3.03 min.

reactant | methyl 4-chloro-5-phenyl-thieno[2,3-d]pyrimidine-6-carboxylate | 2.80 mmol, 0.850 g | ClC=1C2=C(N=CN1)SC(=C2C2=CC=CC=C2)C(=O)OC | C14H9ClN2O2S
reactant | diisopropylethylamine | 4.20 mmol, 0.73 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(2-pyrrolidin-1-ylethoxymethyl)piperidine | 4.20 mmol, 0.890 g | N1(CCCC1)CCOCC1CCNCC1 | C12H24N2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | Methyl 5-phenyl-4-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidine-6-carboxylate | 1.012 g, 75% | C1(=CC=CC=C1)C1=C(SC=2N=CN=C(C21)N2CCC(CC2)COCCN2CCCC2)C(=O)OC | C26H32N4O3S
